US08309546B2
Step 3: 5-[6-Morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine
1,4-Dioxane (40 ml), water (20 ml), and sodium carbonate (3.6 g, 33.9 mmol) were added to 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine (2.5 g, 11.3 mmol) and 2-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purine (3.7 g, 11.3 mmol) and the atmosphere in the reaction vessel was substituted with nitrogen. Tetrakis triphenylphosphine palladium (0.65 g, 0.57 mmol) was added, then the atmosphere in the reaction vessel was substituted with nitrogen again, and the resulting mixture was heated to reflux for 2 hours. The reaction mixture was cooled followed by the addition of ethyl acetate and water and the insoluble matter was collected by filtration, then washed with ethyl acetate and water, and dried to give the title compound (2.6 g, 59%) as a pale orange solid.

reactant | 1,4-Dioxane | 40 ml | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 33.9 mmol, 3.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 11.3 mmol, 2.5 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
reactant | 2-chloro-6-morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purine | 11.3 mmol, 3.7 g | ClC1=NC(=C2N=CN(C2=N1)CC1COCC1)N1CCOCC1 | C14H18ClN5O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | 5-[6-Morpholin-4-yl-9-(tetrahydrofuran-3-ylmethyl)-9H-purin-2-yl]pyrimidin-2-amine | 2.6 g, 59% | N1(CCOCC1)C1=C2N=CN(C2=NC(=N1)C=1C=NC(=NC1)N)CC1COCC1 | C18H22N8O2
